US08193199B2
Thionyl chloride (0.850 mL, 11.6 mmol) was added to a stirring solution of (8-chloro-2-(2-fluorophenyl)quinolin-3-yl)methanol (0.670 g, 2.33 mmol) in CH2Cl2. The reaction mixture was stirred at room temperature. After 2.5 h, the crude product was purified by column chromatography on a 40 g Redi-Sep™ column using 0% to 100% gradient of CH2Cl2-MeOH-NH4OH (89:9:1) in CH2Cl2 to give 8-chloro-3-(chloromethyl)-2-(2-fluorophenyl)quinoline: LC-MS (ESI) m/z 306.0 [M+H]+.

reactant | Thionyl chloride | 11.6 mmol, 0.850 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (8-chloro-2-(2-fluorophenyl)quinolin-3-yl)methanol | 2.33 mmol, 0.670 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)F)CO | C16H11ClFNO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-chloro-3-(chloromethyl)-2-(2-fluorophenyl)quinoline | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)F)CCl | C16H10Cl2FN
